US07786155B2
4-[2-(2-Methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-benzoic acid (120 mg, 0.29 mmol) and (+/−)-3-methyl-2-butylamine (45 uL, 0.44 mmol) and N,N′-dicyclohexylcarbodiimide (97 mg, 0.47 mmol) and 4-(dimethylamino)-pryridine (58 mg, 0.47 mmol) are dissolved in 5 mL methylene chloride. The reaction mixture is stirred for 12 hours, filtrated and the filtrate evaporated. The residue of the filtrate is purified by preparative HPLC (Method 1) to yield (+/−)-N-(1,2-dimethyl-propyl)-4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-benzamide (68 mg, 48%). LCIMS at 354 nm; [M+H] 482; Rt 3.304 min.

reactant | 4-[2-(2-Methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-benzoic acid | 0.29 mmol, 120 mg | CC=1N(C(C(N1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC(=O)C1=CC=C(C(=O)O)C=C1 | C25H20N2O4
reactant | (+/−)-3-methyl-2-butylamine | 0.44 mmol, 45 uL | CC(C(C)N)C | C5H13N
reactant | N,N′-dicyclohexylcarbodiimide | 0.47 mmol, 97 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (+/−)-N-(1,2-dimethyl-propyl)-4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-benzamide | 68 mg, 48% | CC(C(C)C)NC(C1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)=O | C30H31N3O3
